US07071182B2
3-[2-(6-nitro-indazol-1-yl)-ethyl]-oxazolidin-2-one
To a mixture of 3-(2-hydroxy-ethyl)-oxazolidin-2-one (1.00 g, 7.63 mmol) and Hunigs base (2.92 mL, 16.8 mmol) in dichloromethane (19 mL) at 0° C. was added mesyl chloride (0.650 mL, 8.40 mmol) slowly via syringe. The mixture was stir cold for three hours, diluted with 10 mL of water and 25 mL of dichloromethane. The layers were separated and the organic layer was washed with aqueous NaHCO3 (3×30 mL) followed by water (1×15 mL). The organic layer was then dried (Na2SO4), filtered, and concentrate under reduced pressure to provide 650 mg of methanesulfonic acid 2-(2-oxo-oxazolidin-3-yl)-ethyl ester as a light brown oil. In a separate flask 6-nitroindazole (318 mg, 1.95 mmol) was treated with potassium carbonate (538 mg 3.9 mmol) in DMF (10 mL) for 30 minutes, afer which methanesulfonic acid 2-(2-oxo-oxazolidin-3-yl)-ethyl ester (490 mg 2.34 mmol) was added. The reaction mixture was heated to 60° C. for 6 hours, cooled to room temperature, filtered through a plug of silica gel and rinsed with triethylamine/ethyl acetate (1/4). The filtrate was concentrated under reduced pressure and purified by flash chromatography (silica gel, triethylamine/ethyl acetate 1/30) to provide the title compound (210 mg, 39% yield). 1H NMR (300 MHz, DMSO-d6) ppm 3.49 (m, 2H), 3.62 (t, J=5.76, 2H), 4.13 (m, 2H), 4.76 (t, J=5.76, 2H), 7.97–8.03 (m, 2H), 8.33 (m, 1H), 8.83 (m, 1H); MS (DCI/NH3) m/z 277 [M+H]+.

reactant | 6-nitroindazole | 1.95 mmol, 318 mg | [N+](=O)([O-])C1=CC=C2C=NNC2=C1 | C7H5N3O2
reactant | potassium carbonate | 3.9 mmol, 538 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonic acid 2-(2-oxo-oxazolidin-3-yl)-ethyl ester | 2.34 mmol, 490 mg | O=C1OCCN1CCOS(=O)(=O)C | C6H11NO5S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-[2-(6-nitro-indazol-1-yl)-ethyl]-oxazolidin-2-one | 210 mg, 39% yield | [N+](=O)([O-])C1=CC=C2C=NN(C2=C1)CCN1C(OCC1)=O | C12H12N4O4
